US08609848B2
Step 2: 5-Hydroxy-2-methylbenzoic acid
To a mixture of 4.27 g 5-amino-2-methylbenzoic acid (see below), 6 ml concentrated sulfuric acid and 10 ml water, 50 ml ice are added, and a solution of 2.1 g sodium nitrite in 15 ml water is added drop wise, maintaining a temperature of the reaction mixture below 7° C. After stirring this mixture for further 30 min, it is added drop wise to a refluxing mixture of 20 ml concentrated sulfuric acid and 20 ml water. The resulting mixture is held under reflux for further 10 min and stirred over night allowing the temperature to cool down to RT. The mixture is portioned between water and EA, the phases are separated, the organic phase is dried over MgSO4, and the solvent is removed under reduced pressure. For further purification the remaining crude product is solved in diethyl ether, and the organic phase is washed with water, dried over MgSO4, and the solvent is removed under reduced pressure, resulting in 5-hydroxy-2-methylbenzoic acid as the product, which is used for the next step without further purification.

reactant | 5-amino-2-methylbenzoic acid | 4.27 g | NC=1C=CC(=C(C(=O)O)C1)C | C8H9NO2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 2.1 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | EA | CC(OCC)=O | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 5-Hydroxy-2-methylbenzoic acid | OC=1C=CC(=C(C(=O)O)C1)C | C8H8O3
